* source VREG_LOWPASS
X_U1         N14762 N14798 N14780 LM317-N_TRANS
C_C2         0 N14798  10u  TC=0,0 
R_R1         0 N14798  720 TC=0,0 
R_R2         N14798 N14780  240 TC=0,0 
D_D2         N14798 N14780 Dbreak 
C_C4         0 N14780  1u  TC=0,0 
V_V3         N14762 0 6Vdc
D_D3         N14780 N14762 Dbreak 
